US04171325
Sodium (1.43 g) was added, with stirring under nitrogen, to dry ethanol (100 ml). After the sodium had dissolved a solution of N-cyano-N'-methyl-N"-(2-mercaptoethyl)guanidine (4.90 g) in dry ethanol (50 ml) was added and the mixture was stirred at room temperature for one hour. 5-Methyl-4-chloromethylimidazole hydrochloride (5.18 g) was added in batches over a period of one hour at room temperature. The mixture was then stirred at room temperature, for a further hour and heated at reflux temperature for 1/2 hour. After cooling the mixture was filtered and the filtrate was evaporated to a glassy solid (8.8 g). This crude product was chromatographed on silica gel with acetonitrile as eluant and the solid product obtained (3.60 g) was recrystallised from acetonitrile to give N-cyano-N'-methyl-"-[2-(5-methyl-4-imidazolylmethylthio)ethyl]guanidine, m.p.=140°-142° C.

reactant | Sodium | 1.43 g | [Na] | Na
reactant | N-cyano-N'-methyl-N"-(2-mercaptoethyl)guanidine | 4.90 g | C(#N)NC(=NCCS)NC | C5H10N4S
reactant | 5-Methyl-4-chloromethylimidazole hydrochloride | 5.18 g | Cl.CC1=C(N=CN1)CCl
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | [2-(5-methyl-4-imidazolylmethylthio)ethyl]guanidine | CC1=C(N=CN1)CSCCNC(=N)N | C8H15N5S
